US09126999B2
Preparation 8: 2-bromo-5-(1,3-dimethyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine
Sodium tetrahydroborate (472 mg) was slowly added to a suspension of 2-bromo-5-(1-ethyl-3-methyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine (Preparation 7, 1.8 g) in Ethanol (20 mL). The reaction mixture was stirred at room temperature for 3 hours. The reaction solution was then very slowly added to ice cooled 1N HCl until a pH=2.0 was achieved to quench any remaining sodium tetrahydroborate. The solution was then concentrated under high vacuum to remove the majority of ethanol. Saturated sodium bicarbonate aqueous solution was then slowly added to the acidic solution until a neutral pH (7.0) was achieved and a white precipitate forms. The precipitate was filtered off and washed with water (200 mL) and ether (20 mL). The white precipitate was collected and dried in vacuo to afford the title compound as a white powder (1.36 g, 74.7%). 1HNMR (400 MHz, DMSO-d6) δ: 2.00, (m, 1H), 2.09, (s, 3H), 2.30, (m, 1H), 3.67, (s, 3H), 4.34, (m, 1H), 5.15, (m, 1H), 5.31, (s, 1H), 6.69, (s, 1H), 7.63, (s, 1H).

reactant | Sodium tetrahydroborate | 472 mg | [BH4-].[Na+]
reactant | 2-bromo-5-(1-ethyl-3-methyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine | 1.8 g | BrC1=NN2C(N=C(C=C2C(F)(F)F)C=2C(=NN(C2)CC)C)=C1 | C13H11BrF3N5
reactant | HCl | 1N | Cl | ClH
solvent | Ethanol | 20 mL | C(C)O | C2H6O
product | 2-bromo-5-(1,3-dimethyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 1.36 g, 74.7% | BrC1=NN2C(NC(CC2C(F)(F)F)C=2C(=NN(C2)C)C)=C1 | C12H13BrF3N5
